US07351825B2
(1R*,5S*)-2-oxo-5-phenyl-3-oxa-bicyclo[3.1.0]hexane-1-carboxylic acid t-butyl ester (step 2-3)
Under nitrogen atmosphere, potassium t-butoxide (110 g, 0.78 mol) was added to a solution of di-t-butyl malonate (170 g, 0.78 mol) in t-butyl alcohol (1.5 L) in 3 portions at room temperature. After stirring at room temperature for 1 hour, the mixture was heated to 70° C. Then a solution of 2-chloromethyl-2-phenyloxirane (120 g) in tetrahydrofuran (500 mL) synthesized by the method described in J. Org. Chem. (1962, 27, 2241-2243) was added dropwise over 90 min. After stirring for 12 hours at 70° C., the mixture was cooled to room temperature and the solvent was evaporated. 10% Aqueous citric acid solution (500 mL) was added to the residue. The mixture was extracted with ethyl acetate (2.0 L), sequentially washed with water (500 mL) and saturated aqueous sodium chloride solution (200 mL), and dried over magnesium sulfate. After filtration and evaporation, the title compound (120 g, 3 step, yield 54%) was recrystallized from a mixed solution of hexane:diisopropyl ether=1:1 (600 mL) as a white solid.

reactant | potassium t-butoxide | 0.78 mol, 110 g | CC(C)([O-])C.[K+]
reactant | di-t-butyl malonate | 0.78 mol, 170 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | 2-chloromethyl-2-phenyloxirane | 120 g | ClCC1(OC1)C1=CC=CC=C1 | C9H9ClO
reactant | hexane | CCCCCC | C6H14
solvent | t-butyl alcohol | 1.5 L | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | (1R*,5S*)-2-oxo-5-phenyl-3-oxa-bicyclo[3.1.0]hexane-1-carboxylic acid t-butyl ester | 120 g, yield 54% | C(C)(C)(C)OC(=O)[C@]12C(OC[C@@]2(C1)C1=CC=CC=C1)=O | C16H18O4
